US05216165
A) 4-[(7-Chloro-4-quinolinyl)amino]benzoic acid methyl ester hydrochloride
4,7-Dichloroquinoline (19.8 g, 100 mmol) and methyl 4-aminobenzoate (15.1 g, 100 mmol) are stirred in 150 mL of methanol in a 500 mL Erlenmeyer flask and heated on a hot plate. After~15 minutes, a yellow solid precipitates out of solution. Another 100 mL of methanol are added and the large chunks of material are broken up. After another 15 minutes of heating, the flask is allowed to cool for 5 minutes and the product is filtered and washed with ether. Air drying in the funnel overnight affords 26.01 g (74.5 mmol, 75% yield) of compound as a pale-yellow solid: 1H NMR (Me2SO-d6, 300 MHz) δ8.74 (d, J=9.3 Hz, 1H), 8.63 (d, J=6.9 Hz, 1H), 8.11 (d, J=8.7 Hz, 2H), 8.09 (d, J=2.1 Hz, 1H), 7.9 (d of d, 1 H), 7.62 (d, J=8.4 Hz, 2H), 7.1 (d, 1H), 3.87 (s, 3H).

reactant | 4,7-Dichloroquinoline | 100 mmol, 19.8 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | methyl 4-aminobenzoate | 100 mmol, 15.1 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | methanol | 150 mL | CO | CH4O
product | 4-[(7-Chloro-4-quinolinyl)amino]benzoic acid methyl ester hydrochloride | 74.5 mmol, 26.01 g, 75% yield | Cl.COC(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl)=O | InChI=1S/C17H13ClN2O2.ClH/c1-22-17(21)11-2-5-13(6-3-11)20-15-8-9-19-16-10-12(18)4-7-14(15)16;/h2-10H,1H3,(H,19,20);1H
